US04562275
Preparation of bis-heptafluorobutyrato trans(-)-1,2-diaminocyclohexane platinum(II)
Dichloro(1,2-diaminocyclohexane)platinum(II) (760 mg) and silver nitrate (680 mg) were stirred in the dark at 50° C. for 3 hours. The reaction mixture was chilled for 24 hours and filtered. An excess of sodium heptafluorobutyrate was added to the filtrate and the reaction mixture was heated at 60° C. A precipitate appeared and this was filtered and washed with water to give the title product (350 mg). The product is insoluble in water but soluble in alcohol (ethanol) to 50 mg/ml. In the TLC system n-butanol:acetic acid:H2O (12:3:5) on cellulose, the product gave an Rf of 0.83 (spotting solvent-ethanol with heptafluorobutyric acid). The IR was consistent for the indicated structure.

reactant | Dichloro(1,2-diaminocyclohexane)platinum(II) | 760 mg | C1CCC(C(C1)N)N.[Cl-].[Cl-].[Pt+2]
catalyst | silver nitrate | 680 mg | [N+](=O)([O-])[O-].[Ag+]
product | trans(-)-1,2-diaminocyclohexane platinum(II) | 350 mg | [Pt+2].N[C@H]1[C@@H](CCCC1)N | InChI=1S/C6H14N2.Pt/c7-5-3-1-2-4-6(5)8;/h5-6H,1-4,7-8H2;/q;+2/t5-,6-;/m1./s1
